US06346296B1
Preparation of a Packaging Substrate from 1C and Bismaleimide/diallylbisphenol A
3.5 g of 1C was dissolved in 3.49 g of methyletherketone, to which was added 5.833 g of Kerimid 8292 (60% solids in n-methylpyrollidinone) NMP60 from Ciba Specialty Chemicals (a mixture of diphenylmethylenebismaleimide and diallylbisphenol A). The solution was coated onto two plies of 4.5″×5.5″ 2116 woven glass. The individual plies were prepregged at 170° C. for five minutes. The plies were stacked and laminated together in a Carver press (6×6″, 5000 lb) and heated at 240° C. for 4 hours. Samples of laminate were cut into 1.3×5.0 cm strips and stacked together and measured in torsion using a Rheometrics, Inc., rheometer (RDS2:RSI Orchestrator), at 6.28 rad/sec, 0.5% strain, using an auto tension adjustment. A tan delta peak at 290° C. was observed. Onset of modulus loss (G′) was 250° C. This example demonstrates that brominatedphenylethynyl substituted polyindanes can be co-cured with bismaleimide/diallyl compounds, acting as a crosslinking group to yield a laminate having a very high glass transition temperature.

reactant | diphenylmethylenebismaleimide | C1(=CC=CC=C1)C(C=1C(=O)NC(C1)=O)(C=1C(=O)NC(C1)=O)C1=CC=CC=C1 | C21H14N2O4
reactant | diallylbisphenol A | C(C=C)C=1C(=C(O)C=CC1C(C)(C)C1=CC=C(C=C1)O)CC=C | C21H24O2
solvent | n-methylpyrollidinone | CN1C(CCC1)=O | C5H9NO
product | Bismaleimide diallylbisphenol A | C1=CC(=CC=C1CC2=CC=C(C=C2)N3C(=O)C=CC3=O)N4C(=O)C=CC4=O.C(C=C)C=1C(=C(O)C=CC1C(C)(C)C1=CC=C(C=C1)O)CC=C | InChI=1S/C21H14N2O4.C21H24O2/c24-18-9-10-19(25)22(18)16-5-1-14(2-6-16)13-15-3-7-17(8-4-15)23-20(26)11-12-21(23)27;1-5-7-17-18(8-6-2)20(23)14-13-19(17)21(3,4)15-9-11-16(22)12-10-15/h1-12H,13H2;5-6,9-14,22-23H,1-2,7-8H2,3-4H3
